US06291469B1
Step A: Preparation of benzyl 4-benzylamino-4-cyanopiperidine-1-carboxylate hydrochloride
11.65 g (50 mmol) N-(benzyloxycarbonyl)piperidone (prepared from 4-piperidone and benzyl chloroformate according to Chem. Pharm. Bull. 1982, 30, 1084) and 7.2 g (50 mmol) benzylamine hydrochloride were dissolved in a mixture of 20 ml methanol and 10 ml water. The solution was kept at 0° C., while 15 ml of an aqueous solution of 3.26 g (50 mmol) potassium cyanide were added dropwise. After stirring overnight at room temperature a crystalline solid had been formed, which was collected by filtration. The filtrate was treated with a mixture of water and ether. The organic layer was separated and the aqueous layer extracted with ether. The combined organic layers were dried over sodium sulfate and added to the solid material. The title hydrochloride precipitated after treating with a saturated ethereal solution of hydrogen chloride, and it was isolated by filtration and dried in vacuo.

reactant | N-(benzyloxycarbonyl)piperidone | 50 mmol, 11.65 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)=O | C13H15NO3
reactant | benzylamine hydrochloride | 50 mmol, 7.2 g | Cl.C(C1=CC=CC=C1)N
reactant | potassium cyanide | 50 mmol, 3.26 g | [C-]#N.[K+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | benzyl 4-benzylamino-4-cyanopiperidine-1-carboxylate hydrochloride | Cl.C(C1=CC=CC=C1)NC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C#N | InChI=1S/C21H23N3O2.ClH/c22-17-21(23-15-18-7-3-1-4-8-18)11-13-24(14-12-21)20(25)26-16-19-9-5-2-6-10-19;/h1-10,23H,11-16H2;1H
